Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillin V
 
Attending: ___.
 
Chief Complaint:
nausea, vomtiting 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ ___ type 1 DM, HTN, HPL,  HTN  for eval of nausea and 
vomiting. Patient states that he was in his usual state of good 
health until about 2 days prior to presentation, had a lack of 
appeptite and generally felt unwell without any specific 
symptoms. He noticed that his sugars were gradually increasing 
in the 300s accompanied by nausea and vomitting.  He denies 
diarrhea or abdominal pain, fevers or chills, no rash or cough. 
He endorses mild sore throat, but no ther infectious symtpoms. 
He has not been able to tolerate PO for the past 2 days. He has 
not made any adjustments to his insulin regimen, despite 
decreased PO intake, and denies any skipped doses.  He states he 
had one previous episode of DKA ___ years ago, unclear precipitant 
at that time.

In the ED inital vitals were 98.2 100 131/78 16 99% ra. Inital 
labs were notable CBC w/ WBC 22., Hct 52.2 ( baseline 
40-44),chem notable for Na 136 K 4.0, CL 91, HCO3 24, Cr 1.1 ( 
baseline) AG of 21, CES neg x 1,  VBG pH 7.46 pCO2 33 pO255 HCO3 
24 BaseXS, Lactate:2.5 ,UA notable for 1000 glu, 10 ketones, no 
leuks or nitrites. CXR was notable for lienar opacity at the 
right base, likely atelectasis. He was given 2L NS, 1L Na, 1L NS 
w/40meq KCl 250cc/hr, insulin gtt started at 7units/ hr, no 
bolus,  zofran 4mg IVx 2, reglan 10mg IV x 1. FSBG prior to 
transport from ED was 167, and insulin gtt was discontinued

On arrival to the MICU, the patient continues to feel nauseous. 
denies any fever sweat or chills, no further episodes of emesis 
since arrival to the ED.  

Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath, or wheezing. 
Denies chest pain, chest pressure, palpitations, or weakness. 
Denies nausea, vomiting, diarrhea, constipation, abdominal pain, 
or changes in bowel habits. Denies dysuria, frequency, or 
urgency. Denies arthralgias or myalgias. Denies rashes or skin 
changes
 
Past Medical History:
1.Type 1 diabetes- followed at ___ diagnosed with type 1 
diabetes  at age ___. last A1c 8.8% ___
2.  Hypertension:  
3.  Hypercholesterolemia
4. Diabetic retinopathy:
5. dumping syndrom dx on GE study in ___. no 
gastroparesis
6. hx of ischemic right colon s/p right hemicolectomy in ___
7.  Hypothyroidism
8.  Hypogonadism
9.  BPH:- not on meds
10.  Right undescended testis:  Mr. ___ is not performing
testicular self-examination

 
Social History:
___
Family History:
( per OMR note) Mother died of lung cancer at age ___.  She was a 
smoker.  Father died at age ___ of MI.  He had hypertension.

 
Physical Exam:
ADMISSION PHYSICAL EXAM
Vitals: T: 98.5  BP:140/76  P:93 R: 18 O2:96% RA
fingerstick 132  
General: ill appearing male in NAD
HEENT:   Mucous membs moist,
Neck: JVP non elevated
CV:  S1/S2 Regular Rate and Rhythm, no murmurs/gallops 
appreciated
Lungs: Clear to auscultation bilaterally, no 
wheezes/rales/ronchai
Abdomen: Soft, nontender, normoactive bowel sounds
GU: no foley
Ext:  Warm/cool no peripheral edema peripheral pulses 2+ ___
Neuro: AO x 3 MAE

 
Pertinent Results:
ADMISSION LABS

___ 02:40PM BLOOD WBC-22.2*# RBC-5.96 Hgb-17.8 Hct-52.2* 
MCV-88 MCH-29.9 MCHC-34.1 RDW-13.6 Plt ___
___ 02:40PM BLOOD Neuts-89.6* Lymphs-4.1* Monos-5.5 Eos-0.5 
Baso-0.2
___ 02:40PM BLOOD Glucose-309* UreaN-19 Creat-1.1 Na-136 
K-4.0 Cl-91* HCO3-24 AnGap-25*
___ 07:32PM BLOOD ALT-17 AST-13 CK(CPK)-146 AlkPhos-66 
TotBili-1.8*
___ 07:32PM BLOOD Calcium-8.8 Phos-2.7 Mg-1.7
___ 04:06PM BLOOD ___ Rates-/18 FiO2-21 pO2-55* 
pCO2-33* pH-7.46* calTCO2-24 Base XS-0 Intubat-NOT INTUBA
___ 04:06PM BLOOD Lactate-2.5*

PERTINENT LABS

___ 02:40PM BLOOD Glucose-309* UreaN-19 Creat-1.1 Na-136 
K-4.0 Cl-91* HCO3-24 AnGap-25*
___ 07:32PM BLOOD Glucose-126* UreaN-16 Creat-0.9 Na-140 
K-4.8 Cl-104 HCO3-26 AnGap-15
___ 09:59PM BLOOD Glucose-197* UreaN-14 Creat-0.9 Na-139 
K-5.2* Cl-104 HCO3-24 AnGap-16
___ 01:56AM BLOOD Glucose-168* UreaN-13 Creat-0.8 Na-138 
K-4.2 Cl-104 HCO3-25 AnGap-13
___ 05:52AM BLOOD Glucose-272* UreaN-12 Creat-0.9 Na-137 
K-4.4 Cl-104 HCO3-25 AnGap-12
---------
___ 02:40PM BLOOD cTropnT-<0.01
___ 07:32PM BLOOD CK-MB-3 cTropnT-<0.01
---------
___ 04:06PM BLOOD ___ Rates-/18 FiO2-21 pO2-55* 
pCO2-33* pH-7.46* calTCO2-24 Base XS-0 Intubat-NOT INTUBA
___ 10:27PM BLOOD ___ pO2-46* pCO2-45 pH-7.36 
calTCO2-26 Base XS-0
___ 02:14AM BLOOD ___ pO2-53* pCO2-42 pH-7.39 
calTCO2-26 Base XS-0
___ 04:06PM BLOOD Lactate-2.5*
___ 02:14AM BLOOD Lactate-0.___KA – The precipitant was unclear although possibly due to 
dehydration secondary to emesis.   He endorses compliance with 
insulin regimen.  There were no obvious infectious symptoms 
other than a mild sore throat, which could indicate viral 
pharyngitis.  There were no other localizing symptoms and his 
infectious workup was unremarkable.  He did have a signficant 
leukocytosis but this resolved without antibiotics.  Blood 
cultures were no growth but not finalized at the time the 
patient left AMA.  His AG gap was closed on arrival to the FICU. 
He received  18 unit lantus and then insulin gtt stopped 2hours 
later while gap was still closed. He was continued  While not 
taking PO and he was continued on D51/2 NS and  continued on 18 
units lantus ( home dose 24), with decreased sliding scale.  He 
was evaluated by the ___ and recommendations were 
made for his insulin regimen.  At the time he left AMA he was 
tolerating a regular diet and lantus/insulin sliding scale.  

#Leukocytosis- pt has a signficant leukocytosis at 22 with no 
clear infectious symptoms as noted above, except for mild sore 
throat. etiologies could be stress response in the setting of 
DKA or hemoconcentration ___ t hypovolemia given Hct also 
significantly elevated  from baseline and gastroperesis can also 
cause elevated WBC. His white count normalized without 
antibiotics suggesting stress response from DKA. 

#Hypertension- c/w lisinopril, HCTZ was held during the 
hospitalization

CHRONIC: 
# Hypercholesterolemia- ___ profile showed total 
cholesterol 146, HDL 51, LDL 79, and triglycerides 84.  c/w 
simvastatin

# chronic constipation s/p colectomy- c/w miralx prn

#Hypothyroidism-last TSH ___ 0.59. c/w levothyroxine

# Hypogonadism- on IM testosterone ___. 

TRANSITIONAL: 
Per report, the patient left AMA overnight due to insomnia. 
 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amlodipine 10 mg PO DAILY 
hold for SBP < 100 
2. Aspirin 325 mg PO DAILY 
3. Cialis *NF* (tadalafil) 5 mg Oral prn 60 min before 
intercourse 
4. Levothyroxine Sodium 100 mcg PO DAILY 
5. Lisinopril 10 mg PO DAILY 
hold for SBP < 100 
6. Hydrochlorothiazide 12.5 mg PO DAILY 
hold for SBP  < 100 
7. Simvastatin 20 mg PO DAILY 
8. testosterone enanthate *NF* 200 mg/mL Injection q ___ weeks 
9. Glargine 24 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin

 
Discharge Medications:
1. Amlodipine 10 mg PO DAILY 
2. Levothyroxine Sodium 100 mcg PO DAILY 
3. Lisinopril 10 mg PO DAILY 
4. Simvastatin 20 mg PO DAILY 
5. Cialis *NF* (tadalafil) 5 mg Oral prn 60 min before 
intercourse 
6. testosterone enanthate *NF* 200 mg/mL Injection q ___ weeks 
7. Aspirin 325 mg PO DAILY 
8. Glargine 16 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
DKA

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital and found to be in DKA. The 
cause was not clear but may be due to a viral infection. You 
were given IVF and insulin and your DKA resolved. You were seen 
by the ___ diabetes service. You decided to leave against 
medical advice on ___ prior to getting final insulin 
recommendations. Please follow up with your doctor as soon as 
possible.

 
Followup Instructions:
___